US09403761B2
(2R)-2-amino-3-phenylpropyl methylcarbamate (11.932 mmol) was dissolved in dichloromethane and methansulfonic acid (3.1 ml, 4 eq) and sodium cyanate (5.39 g, 3 eq) was added in an ice bath. The resulting reaction mixture was stirred for 1 day. Water was added to terminate the reaction and the reaction mixture was basicified to pH8-9 with 1N NaOH solution. The organic layer was extracted 3 times with dichloromethane, dried over magnesium sulfate and concentrated in vacuo, to give oil. This was dissolved in dichloromethane and the solution was treated with a solution of HCl in ethyl ether. The resulting precipitate was filtered to give (2R)-2-amino-3-phenylpropyl (aminocarbonyl)methylcarbamate; hydrochloride

reactant | (2R)-2-amino-3-phenylpropyl methylcarbamate | 11.932 mmol | CNC(OC[C@@H](CC1=CC=CC=C1)N)=O | C11H16N2O2
reactant | methansulfonic acid | 3.1 ml, 4 eq | CS(=O)(=O)O | CH4O3S
reactant | sodium cyanate | 5.39 g, 3 eq | [O-]C#N.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | (2R)-2-amino-3-phenylpropyl (aminocarbonyl)methylcarbamate | NC(=O)CNC(OC[C@@H](CC1=CC=CC=C1)N)=O | C12H17N3O3
